US05780483
Preparation of N-[2-Hydroxy-4-(methoxycarbonyl)phenyl]-N'-phenyl urea
N-[2-Hydroxy-4-(methoxycarbonyl)phenyl]-N'-phenyl urea was prepared from methyl-4-amino-3-hydroxybenzoate (200 mg, 1.19 mmol) and phenyl isocyanate (1.19 mmol) according to the procedure noted above in General Method A. The product was purified by precipitation from toluene, and filtering, to afford the titled compound (309 mg, 90%). mp: 188.4°-188.8° C.; 1H NMR (CD3OD/CDCl3): d 8.15 (d, 1H, J=8.25 Hz), 7.70 (s, 1H), 7.51 (d, 1H, J=8.25 Hz), 7.43 (d, 2H, J=8.25 Hz), 7.30 (t, 2H, J=8.25 Hz), 7.01 (t, 1H, J=8.25 Hz), 3.87 (s, 3H); El-MS m/z 286 (M+H)+ ; Anal. (C15H4N2O4) C, H, N.

reactant | methyl-4-amino-3-hydroxybenzoate | 1.19 mmol, 200 mg | COC(C1=CC(=C(C=C1)N)O)=O | C8H9NO3
reactant | phenyl isocyanate | 1.19 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[2-Hydroxy-4-(methoxycarbonyl)phenyl]-N'-phenyl urea | 309 mg, 90% | OC1=C(C=CC(=C1)C(=O)OC)NC(=O)NC1=CC=CC=C1 | C15H14N2O4
